US05008263
(b) 3-(2-Methoxyethoxy)methyl-5-chloro-1-methyl-4-nitropyrazole
3-Bromomethyl-5-chloro-1-methyl-4-nitropyrazole (2.42 g, 9.5 mmoles), and silver tetrafluoroborate (2.22 g, 11.4 mmoles), were stirred at reflux in 2-methoxyethanol (25 ml) for 6 hours. The black solid was filtered off and the solvent removed under reduced pressure. The oil was dissolved in ethyl acetate (100 ml) and washed with water (100 ml). The organic phase was dried over magnesium sulphate and the solvent removed under reduced pressure. The product was purified by chromatography on silica eluting with 10% ethyl acetate in dichloromethane. Fractions containing product were evaporated yielding the title compound as a white solid (1.54 g, 65%).

reactant | 3-Bromomethyl-5-chloro-1-methyl-4-nitropyrazole | 9.5 mmoles, 2.42 g | BrCC1=NN(C(=C1[N+](=O)[O-])Cl)C | C5H5BrClN3O2
reactant | 2-methoxyethanol | 25 ml | COCCO | C3H8O2
catalyst | silver tetrafluoroborate | 11.4 mmoles, 2.22 g | F[B-](F)(F)F.[Ag+]
product | 3-(2-Methoxyethoxy)methyl-5-chloro-1-methyl-4-nitropyrazole | 1.54 g, 65% | COCCOCC1=NN(C(=C1[N+](=O)[O-])Cl)C | C8H12ClN3O4
